Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anxiety
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is a ___ year old ___ student
with a past psychiatric history of GAD, MDD, Bulimia nervosa,
PTSD, and cutting with no reported hospitalizations or suicide
attempts who was brought in by ambulance to the ___ ED on
___ on ___ from outpatient clinic by psychiatrist
Dr. ___ due to concern regarding pt's thoughts of
overdosing on Benadryl she has at home, self injurious behavior,
and purging in the context of worsening depression and PTSD
linked to a sexual assault that occurred ___. 
 
 
Past Medical History:
None.
 
Social History:
Social History
Born in ___ to family from ___. Frequent moving through 
out childhood due to father's work (9 schools in ___ years, 
attended 3 high schools). Has an older brother with whom she is 
close and a boyfriend in ___ area. Moved to ___ a few 
weeks ago to begin college at ___. Usually a high 
achieving student but currently stated her grades are poor. She
is not close to her room mates and does not know them well. 
Stated religious background is agnostic. Denied any legal issues 
or access to weapons at home. Disclosed sexual assault in ___ 
where she was traveling and
did not know the individual very well. No past psychiatric care. 


Substance Use
- Alcohol: "I'm underage here...I tend to binge drink."
Frequently did so in ___
- Cocaine/amphetamines/speed/LSD/PCP: ___
- ___: Denies
- Benzodiazepines: Denies
- Marijuana: Some intermittent use
- Tobacco: Smokes on occasion 
- Caffeine: Frequent

 
Family History:
Reports family hx of 2 completed suicides on father's side of 
the family and father with 'issues' but no formal evaluation or 
treatment.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: Temp: 98 HR: 59 BP: 113/65  RR: 16  O2sat: 100% RA 
General: Younng woman, sitting up in chair, appears stated age
Skin: no visible rashes or lesions
HEENT: normocephalic, atraumatic, moist mucous membranes
Neck and Back: neck supple, no midline TTP over back
Lungs: CTA b/l     
CV: RRR and S1S2
Abdomen: Soft, NT, ND, +BS
Extremities: well perfused and warm, no edema
Neuro: CN's II-XII grossly intact. Moves all 4 extremities
spontaneously against gravity. Gaze conjugate. No nystagmus. 
Gait
normal. 

Neuropsychiatric Examination:
  *Appearance: young woman, appears stated age, in NAD
  Behavior: cooperates with interview and engages with the
examiner's questions
  *Mood and Affect: "frustrated", patients affect at this time 
is
euthymic, with occasional laughter and levity in her manner,
growing more somber as she discusses her history of sexual
assault
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear without loosening of associations
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI at this time though endorses SI 
in
the past month, mostly passive without formation of any plan,
denies HI, AH, or VH
  *Judgment and Insight: moderate/moderate
  Cognition:
    *Attention, *orientation, and executive function: recites 
___
backwards and ___ backwards correctly
    *Memory: ___ registration, ___ direct recall at 5 minutes
    *Fund of knowledge: good; play by ___ = ___
    Calculations: 9 quarters = 2.25$
    Abstraction: apple + orange = fruit
    Visuospatial: did not assess
    *Speech: spontaneous with normal rate, rhythm, and prosody
    *Language: intact fluent ___ without paraphasic errors

DISCHARGE PHYSICAL EXAM

 
Pertinent Results:
___ 02:00PM   GLUCOSE-103* UREA N-9 CREAT-0.7 SODIUM-142 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-29 ANION GAP-12
___ 02:00PM   estGFR-Using this
___ 02:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:00PM   WBC-9.6 RBC-4.15 HGB-12.1 HCT-37.2 MCV-90 
MCH-29.2 MCHC-32.5 RDW-13.2 RDWSD-43.2
___ 02:00PM   NEUTS-63.5 ___ MONOS-5.9 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-6.07 AbsLymp-2.78 AbsMono-0.57 
AbsEos-0.11 AbsBaso-0.02
___ 02:00PM   PLT COUNT-203
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UCG-NEGATIVE
___ 01:00PM URINE  GR HOLD-HOLD
___ 01:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:00PM URINE  BLOOD-SM  NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-LG
___ 01:00PM URINE  RBC-6* WBC-26* BACTERIA-FEW YEAST-NONE 
EPI-4
 
Brief Hospital Course:
SAFETY: The pt. was placed on 15 minute checks on admission and 
remained on that level of observation throughout.  She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.
  
LEGAL: ___
PSYCHIATRIC:
#Major depression
Per Dr. ___, pt presented to ___ on 
___ with worsening depression and self injurious behaviors. In 
the ED, pt expressed thoughts of overdosing on Benadryl she has 
at home. Patient reports many years of unhappiness and 
loneliness, worsening around ___ years of age. She reports a 
history of depression since childhood with multiple episodes 
since her ___. The patient endorsed symptoms of depression 
including depressed mood, fatigue/loss of energy, sleep 
disturbance (primarily due to nightmares and flashbacks related 
to sexual assault). Denied anhedonia or poor concentration 
specifically although did endorse doing poorly in school due to 
worsening constellations of symptoms she identifies as 
"anxiety." The patient denied symptoms of mania including 
distractibility, erratic behavior, grandiosity, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech. The patient also denied 
psychotic symptoms including auditory or visual hallucinations, 
paranoia, or delusions. The pt has no prior psychiatric 
diagnoses, hospitalizations, medication or ECT trials, or prior 
suicide attempts. She denies access to weapons.

Upon admission to unit, patient was started on Escitalopram 
Oxalate 10 mg PO/NG daily to address mood, which she tolerated 
well. Patient met with treatment team daily for individual 
therapy, however did not consistently participate in group 
therapy. She did not believe that an admission was necessary and 
consistently stated she was not at risk of self harm.

On day of discharge, patient denied SI and remained future 
oriented, with plans to return to school. She will continue on 
Escitalopram Oxalate 10 mg PO/NG daily with follow up with 
outpatient provider.

#PTSD
On admission, pt endorsed dissociative episodes, nightmares, 
flashbacks, derealization, severe anxiety, as well as panic 
attacks consistent with post traumatic stress disorder likely 
from sexual assault ___. The patient endorsed sleep disturbance 
due to nightmares and flashbacks from traumatic event. Pt 
declined to discuss the details of the event, but her boyfriend 
and brother are aware of the incident.

Upon admission to the unit, patient was started on Hydroxyzine 
25 mg PO/NG QHS:PRN for insomnia. On ___, she was started on 
Lorazepam 0.5 mg PO/NG BID for anxiety. On ___, she was started 
on Prazosin 2 mg PO QHS for nightmares. She tolerated these 
medications without adverse effects. Her sleeping improved. Her 
anxiety improved with ativan 0.5mg PO BID PRN. She will continue 
to home on prazosin 2mg PO QHS and ativan 0.5mg PO BID PRN 
severe anxiety. Patient was encouraged to use Ativan as 
sparingly as possible, never to drink alcohol with Ativan, and 
to try to use other coping mechanisms such as running or drawing 
before taking the medication.

#Bulimia Nervosa
Pt has a history of eating disorder with restricting and binging 
and daily vomiting for ___ years.  She describes an unusual 
pattern of appetite/satiety/weight changes due to her eating 
disorder since ___ years of age, which she thought was "normal" 
for her until recently. Stated she has stages of not wanting to 
eat anything but is prompted to eat when with others for 
cultural reasons. States during stressful periods she purges 
with hands, has used laxatives (last use 2 weeks ago, did not 
elaborate on daily frequency) but denied using diuretics. Stated 
being "constantly
hungry" although doesn't like to "feel full" after which she 
describes constantly eating/binging to relieve stress but 
purges, and plans binges ahead of time. Usually selects junkfood 
due to quick and easy access. Consumes about 1L volume of fluids 
with food vs. quantifies total of 1L food (unclear during 
interview
which she specified).

Pt did not have any episodes of purging during this admission. 
Escitalopram Oxalate 10 mg PO/NG daily was started on admission 
to address sx of bulimia nervosa.

#Self Injurious Behavior
Cutting behavior has been an ongoing issue since sophomore year 
in HS.

PSYCHOSOCIAL:
#GROUPS/MILIEU: Pt ate all meals in the milieu and cooperated 
with group rules. She was encouraged to participate in unit’s 
groups/milieu/therapy opportunities as appropriate, but did not 
participate. 

#COLLATERAL CONTACTS: Patient had no outpatient psychiatric 
providers prior to this hospitalization; she presented to 
___ at school and was BIBA on ___.

#FAMILY INVOLVEMENT: Pt's brother is main source of support and 
was aware of her hospitalization. Parents are aware that she is 
being hospitalized, but have not been fully informed, 
particularly regarding sexual assault in ___. 

#INTERVENTIONS:
- Medications: lorazepam, prazosin, escitalopram
- Psychotherapeutic Interventions: Individual therapy. Pt 
generally did not participate in group therapy despite 
encouragement. However, she did attend one project group prior 
to discharge and was interactive with peers and staff.

INFORMED CONSENT: The team discussed the indications for,  
intended benefits of, and possible side effects and risks of  
starting these medications, and risks  and benefits of possible  
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take these medications as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team, and 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:
#Chronic/Static Risk Factors:
- Chronic mental illness
- Prior lack of consistent outpatient treaters
- Access to lethal means (Benadryl, etc.)
- History of self-injurious behavior
- Current/previous suicidal ideation
- Alcohol use (binging)
- Acutely stressful events (sexual assault)
- Family history of suicide
- Worsening symptoms
- Young adult, unmarried
- Poor social support overall, particularly parents

#Modifiable Risk Factors:
-Prior lack of outpatient treaters

#Protective Factors:
-Patient is medication compliant
-Patient voluntarily sought outpatient treatment and her insight 
is improving

PROGNOSIS:  Patient has potential for good longterm prognosis, 
as she has numerous strengths, including the fact that she is 
medication compliant, and expresses interest in establishing a 
long-term relationship with an outpatient provider. Patient 
continues to require longterm outpatient psychopharmacology 
management closely monitored by her outpatient treaters.
 
Medications on Admission:
None
 
Discharge Medications:
- Lorazepam 0.5 mg PO/NG BID anxiety 
- Prazosin 2 mg PO QHS nightmares 
- Escitalopram Oxalate 10 mg PO/NG daily depression
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Bulimia
- Major Depressive Depression
- Suicidal Ideation
- Post Traumatic Stress Disorder
- Generalized Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___